US07566735B2
N,N-dimethyl-3-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}propanamide
The title compound was prepared from 3-(4-bromophenyl)-N,N-dimethylpropanamide and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 1.

reactant | 3-(4-bromophenyl)-N,N-dimethylpropanamide | BrC1=CC=C(C=C1)CCC(=O)N(C)C | C11H14BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | N,N-dimethyl-3-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}propanamide | CN(C(CCC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)C | C19H22F3N3O
